US07585886B2
In accordance with the techniques of “Journal of Organic Chemistry”, 2001, vol. 66, p. 1403-1412, a mixture of 215 mg of tert-butyl [(1R)-1-(1-naphthyl)ethyl][(4-phenylpyrrolidin-3-yl)methyl]carbamate, 113 mg of chlorobenzene and 3 ml of toluene was mixed with 231 mg of potassium tert-butoxide and heated at 135° C. for 36 hours in a sealed tube. The organic layer was washed with 1 M hydrochloric acid, and the organic layer was dried with anhydrous sodium sulfate and concentrated under a reduced pressure. The thus obtained residue was purified by a silica gel column chromatography (chloroform-methanol) to obtain 85 mg of tert-butyl [(1,4-diphenylpyrrolidin-3-yl)methyl][(1R)-1-(1-naphthyl)ethyl]carbamate as a colorless oily substance. The thus obtained compound was dissolved in 2 ml of ethyl acetate, mixed with 1 ml of 4 M hydrogen chloride/ethyl acetate and stirred at room temperature for 6 hours. The reaction solution was concentrated under a reduced pressure, and the thus precipitated solid was collected by filtration to obtain 30 mg of (1R)—N-[(1,4-diphenylpyrrolidin-3-yl)methyl]-1-(1-naphthyl)ethanamine dichloride as a purple solid.

reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl][(4-phenylpyrrolidin-3-yl)methyl]carbamate | 215 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)CC1CNCC1C1=CC=CC=C1 | C28H34N2O2
reactant | chlorobenzene | 113 mg | ClC1=CC=CC=C1 | C6H5Cl
reactant | potassium tert-butoxide | 231 mg | CC(C)([O-])C.[K+]
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl [(1,4-diphenylpyrrolidin-3-yl)methyl][(1R)-1-(1-naphthyl)ethyl]carbamate | 85 mg | C1(=CC=CC=C1)N1CC(C(C1)C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)[C@H](C)C1=CC=CC2=CC=CC=C12 | C34H38N2O2
